US08293768B2
Synthesis of N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide
To a solution of 2-amino-N-benzyl-4-methylthiazole-5-carboxamide (3.00 g, 12.1 mmol) in tetrahydrofuran (70 mL) was added N,N-diisopropylethylamine (3.13 g, 24.3 mmol), followed by the addition of 2-chloroethyl isocyanate (1.66 g, 15.76 mmol) at ambient temperature. The resulting reaction mixture was stirred at ambient temperature for 2 days. The solvent was removed in vacuo and the residue was washed with water (100 mL) and t-butyl methyl ether (200 mL). The resulting white solid was added to a suspension of potassium carbonate (2.01 g, 14.55 mmol) and tetrabutylammonium iodide (0.16 g, 0.44 mmol) in dioxane (50 mL). The reaction mixture was refluxed for 24 hours. The solvent was removed in vacuo, and the residue was washed with water (200 mL) and ethyl acetate (50 mL). The residue was recrystallized in methanol to afford the title compound as a colorless solid in 60% yield (2.3 g): mp 226-228° C. (methanol); 1H NMR (300 MHz, DMSO-d6) δ 8.45 (t, J=5.8 Hz, 1H), 7.71 (s, 1H), 7.31-7.16 (m, 5H), 4.33 (d, J=5.8 Hz, 2H), 3.99 (m, 2H), 3.46 (m, 2H), 2.43 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 162.2, 157.6, 157.1, 151.4, 140.1, 128.6, 127.6, 127.1, 118.1, 44.5, 43.0, 37.7, 17.5; MS (ES+) m/z 317.2 (M+1).

reactant | 2-amino-N-benzyl-4-methylthiazole-5-carboxamide | 12.1 mmol, 3.00 g | NC=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H13N3OS
reactant | N,N-diisopropylethylamine | 24.3 mmol, 3.13 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloroethyl isocyanate | 15.76 mmol, 1.66 g | ClCCN=C=O | C3H4ClNO
reactant | potassium carbonate | 14.55 mmol, 2.01 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.44 mmol, 0.16 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide | 60% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C15H16N4O2S
